* extracted by klt extract --deck sky130

* cell pll_vco_ring5
* pin vsubs
.SUBCKT pll_vco_ring5 vsubs
* device instance $1 r0 *1 0.545,1 nfet
M$1 \$13 \$12 \$10 vsubs nfet L=0.15U W=2U AS=0.94P AD=0.94P PS=4.94U PD=4.94U
* device instance $2 r0 *1 2.035,1 nfet
M$2 \$18 \$17 \$16 vsubs nfet L=0.15U W=2U AS=0.94P AD=0.94P PS=4.94U PD=4.94U
* device instance $3 r0 *1 3.525,1 nfet
M$3 \$23 \$22 \$20 vsubs nfet L=0.15U W=2U AS=0.94P AD=0.94P PS=4.94U PD=4.94U
* device instance $4 r0 *1 8.74,1 nfet
M$4 \$29 \$1 \$26 vsubs nfet L=0.5U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $5 r0 *1 10.48,1 nfet
M$5 \$33 \$2 \$30 vsubs nfet L=0.5U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $6 r0 *1 12.22,1 nfet
M$6 \$39 \$3 \$35 vsubs nfet L=0.5U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $7 r0 *1 0.545,4.22 nfet
M$7 \$14 \$54 \$11 vsubs nfet L=0.15U W=2U AS=0.94P AD=0.94P PS=4.94U PD=4.94U
* device instance $8 r0 *1 2.035,4.22 nfet
M$8 \$19 \$55 \$15 vsubs nfet L=0.15U W=2U AS=0.94P AD=0.94P PS=4.94U PD=4.94U
* device instance $9 r0 *1 3.525,4.22 nfet
M$9 \$24 \$56 \$21 vsubs nfet L=0.15U W=2U AS=0.94P AD=0.94P PS=4.94U PD=4.94U
* device instance $10 r0 *1 8.74,4.22 nfet
M$10 \$28 \$27 \$25 vsubs nfet L=0.5U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $11 r0 *1 10.48,4.22 nfet
M$11 \$34 \$32 \$31 vsubs nfet L=0.5U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $12 r0 *1 12.22,4.22 nfet
M$12 \$38 \$37 \$36 vsubs nfet L=0.5U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $13 r0 *1 17.435,4 nfet
M$13 \$41 \$72 \$40 vsubs nfet L=0.15U W=8U AS=3.76P AD=3.76P PS=16.94U
+ PD=16.94U
* device instance $14 r0 *1 22.525,2 pfet
M$14 \$43 \$4 \$42 \$79 pfet L=0.15U W=4U AS=1.88P AD=1.88P PS=8.94U PD=8.94U
* device instance $15 r0 *1 24.015,2 pfet
M$15 \$45 \$5 \$44 \$79 pfet L=0.15U W=4U AS=1.88P AD=1.88P PS=8.94U PD=8.94U
* device instance $16 r0 *1 25.505,2 pfet
M$16 \$47 \$6 \$46 \$79 pfet L=0.15U W=4U AS=1.88P AD=1.88P PS=8.94U PD=8.94U
* device instance $17 r0 *1 31.02,2 pfet
M$17 \$49 \$7 \$48 \$80 pfet L=0.5U W=4U AS=1.68P AD=1.68P PS=8.84U PD=8.84U
* device instance $18 r0 *1 32.76,2 pfet
M$18 \$51 \$8 \$50 \$80 pfet L=0.5U W=4U AS=1.68P AD=1.68P PS=8.84U PD=8.84U
* device instance $19 r0 *1 34.5,2 pfet
M$19 \$53 \$9 \$52 \$80 pfet L=0.5U W=4U AS=1.68P AD=1.68P PS=8.84U PD=8.84U
* device instance $20 r0 *1 22.525,7.22 pfet
M$20 \$58 \$73 \$57 \$79 pfet L=0.15U W=4U AS=1.88P AD=1.88P PS=8.94U PD=8.94U
* device instance $21 r0 *1 24.015,7.22 pfet
M$21 \$60 \$74 \$59 \$79 pfet L=0.15U W=4U AS=1.88P AD=1.88P PS=8.94U PD=8.94U
* device instance $22 r0 *1 25.505,7.22 pfet
M$22 \$62 \$75 \$61 \$79 pfet L=0.15U W=4U AS=1.88P AD=1.88P PS=8.94U PD=8.94U
* device instance $23 r0 *1 31.02,7.22 pfet
M$23 \$65 \$64 \$63 \$80 pfet L=0.5U W=4U AS=1.68P AD=1.68P PS=8.84U PD=8.84U
* device instance $24 r0 *1 32.76,7.22 pfet
M$24 \$68 \$67 \$66 \$80 pfet L=0.5U W=4U AS=1.68P AD=1.68P PS=8.84U PD=8.84U
* device instance $25 r0 *1 34.5,7.22 pfet
M$25 \$71 \$70 \$69 \$80 pfet L=0.5U W=4U AS=1.68P AD=1.68P PS=8.84U PD=8.84U
* device instance $26 r0 *1 40.015,8 pfet
M$26 \$78 \$77 \$76 \$81 pfet L=0.15U W=16U AS=7.52P AD=7.52P PS=32.94U
+ PD=32.94U
.ENDS pll_vco_ring5
